US09371262B2
rac-(Z)-7,9-dimethyl-4,5,8,9-tetrahydrooxonin-2(3H)-one
Following the general procedure as described in Example 1, 2-(prop-1-en-2-yl)cyclopentanone (1.24 g, 10 mmol), acetaldehyde (0.53 g, 12 mmol) and boron trifluoride etherate (0.14 g, 1.0 mmol) in 1,2-dichloroethane (10 mL) were reacted to give the title product as a colorless liquid (0.59 g, 35% yield). Single Z-isomer.

reactant | 2-(prop-1-en-2-yl)cyclopentanone | 10 mmol, 1.24 g | C=C(C)C1C(CCC1)=O | C8H12O
reactant | acetaldehyde | 12 mmol, 0.53 g | C(C)=O | C2H4O
reactant | boron trifluoride etherate | 1.0 mmol, 0.14 g | B(F)(F)F.CCOCC
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | rac-(Z)-7,9-dimethyl-4,5,8,9-tetrahydrooxonin-2(3H)-one | 0.59 g, 35% yield | C/C/1=C/CCCC(OC(C1)C)=O | C10H16O2
